US07786132B2
(iii) 5-Methyl-2-(methylsulfonyl)-4-(thiophen-2-yl)pyrimidine
5-Methyl-2-(methylthio)-4-(thiophen-2-yl)pyrimidine (0.15 g, 0.67 mmol) was dissolved in acetone (10 mL) and then water (10 mL) was added. Oxone (1.2 g, 2.02 mmol) was added in small portions to the reaction mixture, which was allowed to stir overnight at ambient temperature. The white precipitate that formed during the course of the reaction was collected by suction filtration and washed several times with water and then dried in a vacuum oven at 60° C. Yield=0.12 g. MS (M+H)+ 255.

reactant | 5-Methyl-2-(methylthio)-4-(thiophen-2-yl)pyrimidine | 0.67 mmol, 0.15 g | CC=1C(=NC(=NC1)SC)C=1SC=CC1 | C10H10N2S2
reactant | water | 10 mL | O | H2O
reactant | Oxone | 2.02 mmol, 1.2 g | OOS(=O)[O-].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 5-Methyl-2-(methylsulfonyl)-4-(thiophen-2-yl)pyrimidine | CC=1C(=NC(=NC1)S(=O)(=O)C)C=1SC=CC1 | C10H10N2O2S2
